US09428528B2
Step 4 Preparation of 2,2-Dichloro-N-{(1S,2R)-2-[4-(6-dimethylamino-methyl-pyridin-3-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-acetamide
To a stirred solution of (1S,2S)-2-Amino-1-[4-(6-dimethylaminomethyl-pyridin-3-yl)-phenyl]-3-fluoro-propan-1-ol (60 mg, 0.143 mmol) in dry methanol (0.26 mL) is added ethyl dichloroacetate (45 mg, 0.287 mmol) and triethylamine (29 mg, 0.287 mmol) at room temperature and reaction mixture stirred for 24 hours. Solvent is evaporated in vacuo and the crude material purified by column chromatography eluting in 6% methanol in CH2Cl2 to afford title compound (13 mg): 1H-NMR (400 MHz, DMSO-d6) δ: 2.20 (s, 6H), 3.54 (s, 2H), 4.17-4.24 (m, 1H), 4.27-4.31 (m, 0.5H), 4.39-4.41 (m, 0.5H), 4.56-4.58 (m, 0.5H), 4.59-4.71 (m, 0.5H), 4.89 (m, 1H), 4.99 (d, 1H, J=4 Hz), 6.52 (s, 1H), 7.45-7.49 (m, 3H), 7.68 (d, 2H, J=8.24 Hz), 8.03 (dd, 1H, J1=8.08 Hz, J2=2.4 Hz), 8.64 (d, 1H, J=8.8 Hz), 8.77 (d, 1H, J=2.04 Hz). LC-MS (m/z): [M+H]=414.

reactant | (1S,2S)-2-Amino-1-[4-(6-dimethylaminomethyl-pyridin-3-yl)-phenyl]-3-fluoro-propan-1-ol | 0.143 mmol, 60 mg | N[C@@H]([C@@H](O)C1=CC=C(C=C1)C=1C=NC(=CC1)CN(C)C)CF | C17H22FN3O
reactant | ethyl dichloroacetate | 0.287 mmol, 45 mg | ClC(C(=O)OCC)Cl | C4H6Cl2O2
reactant | triethylamine | 0.287 mmol, 29 mg | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.26 mL | CO | CH4O
product | 2,2-Dichloro-N-{(1S,2R)-2-[4-(6-dimethylamino-methyl-pyridin-3-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-acetamide | 13 mg | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C=1C(=NC(=CC1)N(C)C)C)CF)Cl | C19H22Cl2FN3O2
